//Generated for; spectre
//Trying to find the gate cap of the WL transistor

simulator lang=spectre
global 0 




parameters wireCap=3.253139e-15 wireRes=9.769792 multiplier=16 pvdd=1 \
    cwl=1.09136e-16 lpg=7.5e-08 wpg=9e-08 lpd=6.5e-08 wpd=1.4e-07 \
    lpu=6.5e-08 wpu=8e-08 ldef=6e-08 wdef=1.2e-07
include "../../../../template/ibm65/include_mm.scs"
include "../../../../template/ibm65/subN.scs"
include "../../../../template/ibm65/subP.scs"
include "../../../../template/ibm65/subPU.scs"
include "../../../../template/ibm65/subPD.scs"
include "../../../../template/ibm65/subPG.scs"
// ========================================================
//                         Title
// ========================================================
simulator lang=spectre
myOption options pwr=all

// ========================================================
//                      Subcircuits Used
// ========================================================

// Subcircuit: inverter
subckt inverter VDD VSS In Out
parameters wn=wdef wp=2*wdef ln=ldef lp=ldef mult=1 alpha=1
   P0 (Out In VDD VDD) P_TRANSISTOR width=alpha*wp length=lp m=mult 
   N0 (Out In VSS VSS) N_TRANSISTOR width=alpha*wn length=ln m=mult
ends inverter
// End of subcircuit definition.

// Subcircuit: NAND2
subckt NAND2 VDD VSS inA inB out
parameters wn=2*wdef ln=ldef wp=2*wdef lp=ldef alpha=1 mult=1 
    PA (out inA VDD VDD) P_TRANSISTOR width=wp*alpha length=lp m=mult
    PB (out inB VDD VDD) P_TRANSISTOR width=wp*alpha length=lp m=mult
    NA (out inA netAB VSS) N_TRANSISTOR width=wn*alpha length=ln m=mult
    NB (netAB inB VSS VSS) N_TRANSISTOR width=wn*alpha length=ln m=mult
ends NAND2
// End of subcircuit definition

// Subcircuit: parasitics
subckt parasitics VSS in out
parameters capacitance resistance 
    C0 (in VSS) capacitor c=capacitance/2
    R0 (in out) resistor r=resistance
    C1 (out VSS) capacitor c=capacitance/2
ends parasitics
// End of subcircuit definition

// Subcircuit: bitcell
subckt bitcell VDD VSS WL BL BLB
parameters mult=1
    N5 (BL WL Q VSS) N_TRANSISTOR width=wpg length=lpg m=mult
    P4 (QB Q VDD VDD) P_TRANSISTOR width=wpu length=lpu m=mult
    N3 (QB Q VSS VSS) N_TRANSISTOR width=wpd length=lpd m=mult
    P2 (Q QB VDD VDD) P_TRANSISTOR width=wpu length=lpu m=mult
    N1 (Q QB VSS VSS) N_TRANSISTOR width=wpd length=lpd m=mult
    N6 (BLB WL QB VSS) N_TRANSISTOR width=wpg length=lpg m=mult
ends bitcell
// End of subcircuit definition

// Subcircuit: buffer
subckt buffer VDD VSS in out
parameters wn0=wdef wp0=2*wdef ln0=ldef lp0=ldef mult0=1 alpha0=1 alpha1=1
    I0 (VDD VSS in inbar) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha0 mult=mult0
    I1 (VDD VSS inbar out) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha1 mult=mult0
ends buffer
// End of subcircuit definition.

// Subcircuit: twobuffers
subckt twobuffers VDD VSS in out
parameters wn0=wdef wp0=2*wdef ln0=ldef lp0=ldef mult0=1 alpha0=1 alpha1=1 alpha2=1 alpha3=1
    I0 (VDD VSS in inbar) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha0 mult=mult0
    I1 (VDD VSS inbar inbarbar) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha1 mult=mult0
    I2 (VDD VSS inbarbar inbarbarbar) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha2 mult=mult0
    I3 (VDD VSS inbarbarbar out) inverter wn=wn0 ln=ln0 wp=wp0 lp=lp0 alpha=alpha3 mult=mult0
ends twobuffers
// End of subcircuit definition.

// Subcircuit: predecoder
subckt predecoder VDD VSS in out
    Nand0 (VDD VSS in in postN0) NAND2 mult=1
    Inv0 (VDD VSS postN0 preN1) inverter
    Nand1 (VDD VSS preN1 VDD postN1) NAND2 mult=2
    Inv1 (VDD VSS postN1 out) inverter
ends predecoder
// End of subcircuit definition.

// Subcircuit: nobuffers
subckt nobuffers VDD VSS in out
    R0 (in out) resistor r=0.000000000000001
ends nobuffers
// End of subcircuit definition.

// Subcircuit: wldriver
subckt wldriver VDD VSS in out
    Nand3 (VDD VSS in VDD postN3) NAND2 mult=1
    Inv4 (VDD VSS postN3 out) inverter
ends wldriver
// End of subcircuit definition.


//Subcircuit: WCpathN0K0
//critical path for 6 bits when n = 0 and k = 0
subckt WCpathN0K0 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) nobuffers
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) nobuffers
ends WCpathN0K0
// End of Subcircuit Definition

//Subcircuit: WCpathN1K0
//critical path for 6 bits when n = 1 and k = 0
subckt WCpathN1K0 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) buffer alpha0=1 alpha1=4
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) nobuffers
ends WCpathN1K0
// End of Subcircuit Definition

//Subcircuit: WCpathN2K0
//critical path for 6 bits when n = 2 and k = 0
subckt WCpathN2K0 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) nobuffers
ends WCpathN2K0
// End of Subcircuit Definition

//Subcircuit: WCpathN0K1
//critical path for 6 bits when n = 0 and k = 1
subckt WCpathN0K1 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) nobuffers
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) buffer alpha0=1 alpha1=4
ends WCpathN0K1
// End of Subcircuit Definition

//Subcircuit: WCpathN1K1
//critical path for 6 bits when n = 1 and k = 1
subckt WCpathN1K1 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) buffer alpha0=1 alpha1=4
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) buffer alpha0=1 alpha1=4
ends WCpathN1K1
// End of Subcircuit Definition

//Subcircuit: WCpathN2K1
//critical path for 6 bits when n = 2 and k = 1
subckt WCpathN2K1 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) buffer alpha0=1 alpha1=4
ends WCpathN2K1
// End of Subcircuit Definition

//Subcircuit: WCpathN0K2
//critical path for 6 bits when n = 0 and k = 2
subckt WCpathN0K2 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) nobuffers
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
ends WCpathN0K2
// End of Subcircuit Definition

//Subcircuit: WCpathN1K2
//critical path for 6 bits when n = 1 and k = 2
subckt WCpathN1K2 VDD VSS in out
parameters wirecap wireres
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) buffer alpha0=1 alpha1=4
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
ends WCpathN1K2
// End of Subcircuit Definition

//Subcircuit: WCpathN2K2
//critical path for 6 bits when n = 2 and k = 2
subckt WCpathN2K2 VDD VSS in out
parameters wirecap wireres numBitcellsOnWL=1
    Inv0 (VDD VSS in preN0) inverter
    Predecoder0 (VDD VSS preN0 preNbuf) predecoder
    Nbuffer0 (VDD VSS preNbuf prePAR) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
    PAR0 (VSS prePAR preN2) parasitics capacitance = wirecap resistance = wireres
    Nand2 (VDD VSS preN2 VDD postN2) NAND2 mult=8
    Inv2 (VDD VSS postN2 preWL) inverter
    WLdriver0 (VDD VSS preWL preKbuf) wldriver
    Kbuffer0 (VDD VSS preKbuf out) twobuffers alpha0=1 alpha1=4 alpha2=16 alpha3=64
ends WCpathN2K2
// End of Subcircuit Definition



// ========================================================
//                      Test Bench
// ========================================================

//power supplies
V0 (vdd_0 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 0 and k = 0
V1 (vdd_1 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 1 and k = 0
V2 (vdd_2 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 2 and k = 0
V3 (vdd_3 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 0 and k = 1
V4 (vdd_4 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 1 and k = 1
V5 (vdd_5 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 2 and k = 1
V6 (vdd_6 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 0 and k = 2
V7 (vdd_7 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 1 and k = 2
V8 (vdd_8 0) vsource dc=pvdd type=dc	//voltage source for 6 bit model with n = 2 and k = 2

VGLOBAL (vdd 0) vsource dc=pvdd type=dc	//global voltage source

//input signals (goes from 1 -> 0)
VVIN0 ( in_0 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN1 ( in_1 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN2 ( in_2 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN3 ( in_3 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN4 ( in_4 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN5 ( in_5 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN6 ( in_6 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN7 ( in_7 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 
VVIN8 ( in_8 0 ) vsource type=pulse val0=0 val1=pvdd delay=10n rise=0.01n fall=0.01n width=16n period=32n 

//BUFFERS TO MAKE INPUT SIGNALS MORE REALISTIC

B0 (vdd 0 in_0 in0) buffer alpha0=1 alpha1=1
B1 (vdd 0 in_1 in1) buffer alpha0=1 alpha1=1
B2 (vdd 0 in_2 in2) buffer alpha0=1 alpha1=1
B3 (vdd 0 in_3 in3) buffer alpha0=1 alpha1=1
B4 (vdd 0 in_4 in4) buffer alpha0=1 alpha1=1
B5 (vdd 0 in_5 in5) buffer alpha0=1 alpha1=1
B6 (vdd 0 in_6 in6) buffer alpha0=1 alpha1=1
B7 (vdd 0 in_7 in7) buffer alpha0=1 alpha1=1
B8 (vdd 0 in_8 in8) buffer alpha0=1 alpha1=1

//DUT(S)

DUT0 (vdd_0 0 in0 WL0) WCpathN0K0 wirecap=wireCap wireres=wireRes
DUT1 (vdd_1 0 in1 WL1) WCpathN1K0 wirecap=wireCap wireres=wireRes
DUT2 (vdd_2 0 in2 WL2) WCpathN2K0 wirecap=wireCap wireres=wireRes
DUT3 (vdd_3 0 in3 WL3) WCpathN0K1 wirecap=wireCap wireres=wireRes
DUT4 (vdd_4 0 in4 WL4) WCpathN1K1 wirecap=wireCap wireres=wireRes
DUT5 (vdd_5 0 in5 WL5) WCpathN2K1 wirecap=wireCap wireres=wireRes
DUT6 (vdd_6 0 in6 WL6) WCpathN0K2 wirecap=wireCap wireres=wireRes
DUT7 (vdd_7 0 in7 WL7) WCpathN1K2 wirecap=wireCap wireres=wireRes
DUT8 (vdd_8 0 in8 WL8) WCpathN2K2 wirecap=wireCap wireres=wireRes

//BITCELLS

Bitcell0 (vdd 0 WL0 vdd vdd) bitcell mult=multiplier
Bitcell1 (vdd 0 WL1 vdd vdd) bitcell mult=multiplier
Bitcell2 (vdd 0 WL2 vdd vdd) bitcell mult=multiplier
Bitcell3 (vdd 0 WL3 vdd vdd) bitcell mult=multiplier
Bitcell4 (vdd 0 WL4 vdd vdd) bitcell mult=multiplier
Bitcell5 (vdd 0 WL5 vdd vdd) bitcell mult=multiplier
Bitcell6 (vdd 0 WL6 vdd vdd) bitcell mult=multiplier
Bitcell7 (vdd 0 WL7 vdd vdd) bitcell mult=multiplier
Bitcell8 (vdd 0 WL8 vdd vdd) bitcell mult=multiplier




simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=25 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="TranResults/psf/sens.output" \
    checklimitdest=psf 
tran tran stop=3.2e-08 errpreset=conservative start=0 step=1e-11 \
    write="spectre.ic" writefinal="spectre.fc" annotate=status \
    strobeperiod=1e-11 maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub currents=all
 