subckt INV VDD VSS IN OUT

parameters pw pl nw nl

P1 (VDD IN OUT VDD) P_TRANSISTOR width=pw length=pl
N1 (OUT IN VSS VSS) N_TRANSISTOR width=nw length=nl

ends INV
