subckt NOR2 VDD VSS IN1 IN2 OUT

parameters pw pl nw nl

P1 (VDD IN1 OUT VDD) P_TRANSISTOR width=pw length=pl
P2 (VDD IN2 OUT VDD) P_TRANSISTOR width=pw length=pl
N1 (OUT IN1 COM VSS) N_TRANSISTOR width=nw length=nl
N2 (COM IN2 VSS VSS) N_TRANSISTOR width=nw length=nl

ends NOR2

